US09326973B2
To a solution of ethyl 2-(4-oxocyclohexyl)acetate (0.4 g) in DCM (5 mL) was added Deoxo-Fluor® (0.881 mL) and EtOH (0.038 mL). The reaction mixture was stirred at rt for 16 h and then diluted with sat. NaHCO3 and EtOAc. The organic phase was washed with water, sat. NaCl and dried over anhydrous Na2SO4, filtered and dried to yield ethyl 2-(4,4-difluorocyclohexyl)acetate (0.4 g). To a solution of ethyl 2-(4,4-difluorocyclohexyl)acetate in THF/MeOH (2 mL) was added 1N NaOH (1 mL), and the reaction mixture was stirred at rt for 16 h. The reaction mixture was concentrated, then diluted with EtOAc and acidified with 1N HCl. The organic phase was washed with sat. NaCl, dried over anhydrous Na2SO4, filtered and concentrated to yield 2-(4,4-difluorocyclohexyl)acetic acid as a yellow solid. 1H NMR (400 MHz, DMSO-d6) ppm 12.13 (1H, br. s.), 2.06-2.28 (3H, m), 1.92-2.03 (1H, m), 1.72-1.91 (4H, m), 1.31-1.48 (1H, m), 1.10-1.31 (2H, m).

reactant | ethyl 2-(4,4-difluorocyclohexyl)acetate | FC1(CCC(CC1)CC(=O)OCC)F | C10H16F2O2
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
solvent | THF MeOH | 2 mL | C1CCOC1.CO
product | 2-(4,4-difluorocyclohexyl)acetic acid | FC1(CCC(CC1)CC(=O)O)F | C8H12F2O2
